**** ctat voltage generation circuit *****

.lib "/home/vishalvlsi/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.global vdd gnd
.temp 27

*** resistor definition
xra1    ra1     na1     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xra2    na1     na2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xra3    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xra4    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8

*** supply current
vsup    vdd     gnd     dc      2
vid     qp2     gnd     dc      0
isup    gnd     ra1     dc      10u

.dc     temp    -40     125     1

*** control statement
.control
run
plot v(ra1)
plot v(ra1)/vid#branch
.endc

.end

